US05061706
2 g (0.9 mmol) 4-ethoxalylamino-3-nitrophthalonitrile in 15 ml tetrahydrofuran:dimethylformamide: 25% aqueous ammonia (30:10:0.7) was hydrogenated at atm. pressure by using 25 mg 5% Pt-C as a catalyst. The precipitate was filtered off and washed with tetrahydrofuran. The filter cake was washed several times with 1N aqueous potassium hydroxide. The filtrate was acidified with concentrated hydrochloric acid. The precipitate was filtered off and washed with water, ethanol and ether to give 0.120 g (76%) of 7,8-dicyano-1-hydroxyquinoxaline-2,3(1H,4H)-dione. M.p. decomp. 1H-NMR (DMSO-d6): 7.7 (2H, dd). IR (KBr): 2240 (m). MS (m/e): 228 (M+, 3%), 184 (100%).

reactant | 4-ethoxalylamino-3-nitrophthalonitrile | 0.9 mmol, 2 g | C(=O)(C(=O)OCC)NC=1C(=C(C(C#N)=CC1)C#N)[N+](=O)[O-] | C12H8N4O5
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | Pt-C | 25 mg | [Pt] | Pt
product | 7,8-dicyano-1-hydroxyquinoxaline-2,3(1H,4H)-dione | 0.120 g, 76% | C(#N)C1=CC=C2NC(C(N(C2=C1C#N)O)=O)=O | C10H4N4O3
